US04405552
EXAMPLE 40: 1-(2,6-DICHLOROBENZOYL)-3-(4,6-DIMETHYL-5-PHENYL-2-PYRIDYL)UREA
4,6-Dimethyl-5-phenyl-2-pyridylamine (500 mg) and 2,6-dichlorobenzoyl isocyanate (650 mg) were reacted in 25 ml ethyl acetate. A precipitate formed which was filtered, dried, and identified by NMR analysis as the desired product, m.p. 230°-235° C.

reactant | 4,6-Dimethyl-5-phenyl-2-pyridylamine | 500 mg | CC1=CC(=NC(=C1C1=CC=CC=C1)C)N | C13H14N2
reactant | 2,6-dichlorobenzoyl isocyanate | 650 mg | ClC1=C(C(=O)N=C=O)C(=CC=C1)Cl | C8H3Cl2NO2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-DICHLOROBENZOYL)-3-(4,6-DIMETHYL-5-PHENYL-2-PYRIDYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NC(=C(C(=C2)C)C2=CC=CC=C2)C)C(=CC=C1)Cl | C21H17Cl2N3O2
